US04473560
At 0° C., a solution of 6.9 g of trimethyl phosphite in 20 ml of diethyl ether is added dropwise under agitation to a solution of 9.5 g of 4-chlorophenylacetic acid chloride in 50 ml of diethyl ether. The mixture is agitated for another 90 minutes, the thus-obtained precipitate is vacuum-filtered, yielding 9.3 g (71%) of 2-(4-chlorophenyl)-1-hydroxyethenephosphonic acid dimethyl ester, mp 89°-92° C.

reactant | trimethyl phosphite | 6.9 g | P(OC)(OC)OC | C3H9O3P
reactant | 4-chlorophenylacetic acid chloride | 9.5 g | ClC1=CC=C(C=C1)CC(=O)Cl | C8H6Cl2O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 2-(4-chlorophenyl)-1-hydroxyethenephosphonic acid dimethyl ester | 9.3 g, 71% | COP(OC)(=O)C(=CC1=CC=C(C=C1)Cl)O | C10H12ClO4P
